US07625902B2
(S)-1-(2-Chloro-benzenesulfonyl)-3-(2-chloro-phenyl)-4-[4-(2,5-dimethyl-phenyl)-piperazine-1-carbonyl]-imidazolidin-2-one
Steps 4 and 5: In analogy to example 1, (S)-1-(2-chloro-benzenesulfonyl)-3-(2-chloro-phenyl)-2-oxo-imidazolidine-4-carboxylic acid methyl ester was hydrolyzed using sodium hydroxide solution to give (S)-1-(2-chloro-benzenesulfonyl)-3-(2-chloro-phenyl)-2-oxo-imidazolidine-4-carboxylic acid. Finally, (S)-1-(2-chloro-benzenesulfonyl)-3-(2-chloro-phenyl)-2-oxo-imidazolidine-4-carboxylic acid was coupled with 1-(2,5-dimethylphenyl)piperazine to give the title compound as a colorless solid. MS: 587.2 ([M+H]+)

reactant | (S)-1-(2-chloro-benzenesulfonyl)-3-(2-chloro-phenyl)-2-oxo-imidazolidine-4-carboxylic acid | ClC1=C(C=CC=C1)S(=O)(=O)N1C(N([C@@H](C1)C(=O)O)C1=C(C=CC=C1)Cl)=O | C16H12Cl2N2O5S
reactant | 1-(2,5-dimethylphenyl)piperazine | CC1=C(C=C(C=C1)C)N1CCNCC1 | C12H18N2
product | (S)-1-(2-Chloro-benzenesulfonyl)-3-(2-chloro-phenyl)-4-[4-(2,5-dimethyl-phenyl)-piperazine-1-carbonyl]-imidazolidin-2-one | ClC1=C(C=CC=C1)S(=O)(=O)N1C(N([C@@H](C1)C(=O)N1CCN(CC1)C1=C(C=CC(=C1)C)C)C1=C(C=CC=C1)Cl)=O | C28H28Cl2N4O4S
